US04292317
3.3 g of 6-bromo-7-chloro-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (0.01 mol) and 4.5 cm3 of 1-methylpiperazine (0.04 mol) in solution in 30 cm3 of dimethylsulphoxide, were heated at 110° C. for 4 hours. After cooling, the solution was diluted with 250 cm3 of water. The precipitate formed was filtered off, washed with water and recrystallised from 50 cm3 of methyl cellosolve. 1.3 g of 6-bromo-1-ethyl-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 209C (decomposition), were obtained.

reactant | 6-bromo-7-chloro-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.01 mol, 3.3 g | BrC=1C=C2C(C(=CN(C2=CC1Cl)CC)C(=O)O)=O | C12H9BrClNO3
reactant | 1-methylpiperazine | 0.04 mol, 4.5 cm3 | CN1CCNCC1 | C5H12N2
solvent | dimethylsulphoxide | 30 cm3 | CS(=O)C | C2H6OS
solvent | water | 250 cm3 | O | H2O
product | 6-bromo-1-ethyl-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1.3 g | BrC=1C=C2C(C(=CN(C2=CC1N1CCN(CC1)C)CC)C(=O)O)=O | C17H20BrN3O3
